US07459480B2
5-(4-Iodo-phenyl)-1H-tetrazole (24)
A mixture of 4-iodobenzonitrile (2.0 g), sodium azide (624 mg) and ammonium chloride (514 mg) in DMF is stirred 22 h at 100° C. DMF is evaporated and the residue is suspended in H2O and treated with conc. aq. HCl. The solid material is collected by filtration, washed with 1 N aq. HCl sol. and H2O and dried under high vacuum.

reactant | 4-iodobenzonitrile | 2.0 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | sodium azide | 624 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 514 mg | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(4-Iodo-phenyl)-1H-tetrazole | IC1=CC=C(C=C1)C1=NN=NN1 | C7H5IN4
